US04175130
2-p-Chlorophenyl-5-phenylthio-4-thiazoleacetic acid
To a solution of 3.4 g of ethyl 2-p-chlorophenyl-5-phenylthio-4-thiazoleacetate in 100 ml of methanol was added 15 ml of 3 N aqueous potassium hydroxide. The mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure and water was added to the residue. The solution was acidified with hydrochloric acid. The white precipitated solid was filtered off, washed with water, dried and recrystallized from ethanol to give 2.3 g of the title compound, melting at 191°-193° C.

reactant | ethyl 2-p-chlorophenyl-5-phenylthio-4-thiazoleacetate | 3.4 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)OCC)SC1=CC=CC=C1 | C19H16ClNO2S2
reactant | potassium hydroxide | 3 N, 15 ml | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-p-Chlorophenyl-5-phenylthio-4-thiazoleacetic acid | 2.3 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)O)SC1=CC=CC=C1 | C17H12ClNO2S2
